US07001897B2
To a solution of 3-methanesulfonyloxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (420 mg, 0.799 mmol) (obtained as described in Reference Example 53(8)) in dimethylformamide (21 ml) was added potassium thioacetate (548 mg, 4.79 mmol) at room temperature. The mixture was stirred in an oil bath (80° C.) overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (1:2)→ethyl acetate:methanol (99:1) as the eluant to afford 3-acetylthio-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine (280 mg, yield 69%) as a pale brown solid.

reactant | 3-methanesulfonyloxy-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 0.799 mmol, 420 mg | CS(=O)(=O)OC1CN(C1)C=1SC=C(N1)C(N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H23N5O8S2
reactant | potassium thioacetate | 4.79 mmol, 548 mg | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-{4-[(3R)-1-(p-nitrobenzyloxycarbonyl)-pyrrolidin-3-ylcarbamoyl]-1,3-thiazol-2-yl}azetidine | 280 mg, yield 69% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)C(N[C@H]1CN(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H23N5O6S2
